### PR TITLE
[Merged by Bors] - feat(Topology/Sets): add `NonemptyCompacts.map`

### PR DESCRIPTION
**Pull request by gasparattila**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Sets/Compacts.lean [hunk 1]
```diff
@@ -305,6 +305,40 @@ default element the singleton set containing the default element. -/
...
+  ⟨K.toCompacts.map f hf, K.nonempty.image f⟩
+
+@[simp, norm_cast]
+theorem coe_map {f : α → β} (hf : Continuous f) (s : NonemptyCompacts α) :
+    (s.map f hf : Set β) = f '' s :=
+  rfl
+
+@[simp]
+theorem map_id (K : NonemptyCompacts α) : K.map id continuous_id = K :=
+  NonemptyCompacts.ext <| Set.image_id _
```
Comment (dagurtomas) [inline Mathlib/Topology/Sets/Compacts.lean]:
```suggestion
theorem map_id (K : NonemptyCompacts α) : K.map id continuous_id = K := by
  ext
  simp
```

Comment (dagurtomas) [reply Mathlib/Topology/Sets/Compacts.lean]: `by ext; simp` also works for the next two proofs

File: Mathlib/Topology/Sets/Compacts.lean [hunk 2]
```diff
@@ -305,6 +305,40 @@ default element the singleton set containing the default element. -/
...
+theorem map_injective {f : α → β} (hf : Continuous f) (hf' : Function.Injective f) :
+    Function.Injective (NonemptyCompacts.map f hf) :=
+  .of_comp (f := SetLike.coe) <| hf'.image_injective.comp SetLike.coe_injective
+
+@[simp]
+theorem map_injective_iff {f : α → β} (hf : Continuous f) :
+    Function.Injective (NonemptyCompacts.map f hf) ↔ Function.Injective f := by
+  refine ⟨fun h => .of_comp (f := ({·} : β → NonemptyCompacts β)) ?_, map_injective hf⟩
+  simp_rw [Function.comp_def, ← map_singleton hf]
+  exact h.comp singleton_injective
```
Comment (dagurtomas) [inline Mathlib/Topology/Sets/Compacts.lean]:
```suggestion
    Function.Injective (NonemptyCompacts.map f hf) ↔ Function.Injective f :=
  ⟨fun h => .of_comp (f := ({·} : β → NonemptyCompacts β)) fun _ _ _ ↦ 
    singleton_injective (h (by simp_all)), map_injective hf⟩
```
Small golf, if you want. If not, also note that your `simp_rw` is unnecessary and can be changed to `simp only`.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
